US09062013B2
Ethyl trans-2-phenylspiro[2.4]heptane-1-carboxylate
Cyclopentyltriphenylphosphonium bromide (10.3 g, 25 mmol) and ethyl cinnamate (4.40 g, 25 mmol) were reacted as described under General Procedure B to furnish the title compound (3.72 g, 61%) as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 7.32-7.11 (m, 5H), 4.22-4.13 (m, 2H), 2.77 (d, J=5.7 Hz, 1H), 2.15 (d, J=5.7 Hz, 1H), 1.91-1.85 (m, 2H), 1.72-1.27 (m, 9H).

reactant | Cyclopentyltriphenylphosphonium bromide | 25 mmol, 10.3 g | [Br-].C1(CCCC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | ethyl cinnamate | 25 mmol, 4.40 g | C(C=CC1=CC=CC=C1)(=O)OCC | C11H12O2
product | Ethyl trans-2-phenylspiro[2.4]heptane-1-carboxylate | 3.72 g, 61% | C1(=CC=CC=C1)[C@H]1[C@@H](C12CCCC2)C(=O)OCC | C16H20O2
